US06248740B1
Production of N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]-3-methylimidazo[1,2-b]pyridazine-2-carbonyl]glycine ethyl ester
1.17 g of 4-(diphenylmethoxy)-1-piperidinepropanamine and 0.891 g of N-(6-chloro-3-methylimidazo[1,2-b]pyridazine-2-carbonyl)glycine ethyl ester were dissolved in 10 ml of 1-methyl-2-pyrrolidone; 0.517 ml of N-ethyldiisopropylamine was added, followed by stirring in an oil bath (90-100° C.) for 15 hours. After cooling, ice water was added, followed by extraction with ethyl acetate; the extract was washed with saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (90:10:1). The desired fraction was collected and recrystallized with ethyl acetate-ethyl ether (1:1) to yield 0.629 g of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 1.17 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | N-(6-chloro-3-methylimidazo[1,2-b]pyridazine-2-carbonyl)glycine ethyl ester | 0.891 g | C(C)OC(CNC(=O)C=1N=C2N(N=C(C=C2)Cl)C1C)=O | C12H13ClN4O3
reactant | N-ethyldiisopropylamine | 0.517 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 1-methyl-2-pyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]-3-methylimidazo[1,2-b]pyridazine-2-carbonyl]glycine ethyl ester | 0.629 g | C(C)OC(CNC(=O)C=1N=C2N(N=C(C=C2)NCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1C)=O | C33H40N6O4
